US05057532
87.5 g of 2,4-dichlorobenzaldehyde are added slowly to a solution of 50 g of pinacolone in 200 ml of ethanol and 1 ml of sodium hydroxide solution (50% by weight), keeping the internal temperature at 30° C. or below. The mixture is stirred at 20° C. for 24 hours and then the precipitate is filtered off with suction and dried. 105.5 g (82%) of tert-butyl 2,4-dichlorostyryl ketone are obtained.

reactant | 2,4-dichlorobenzaldehyde | 87.5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | pinacolone | 50 g | CC(C(C)(C)C)=O | C6H12O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 ml | [OH-].[Na+]
product | tert-butyl 2,4-dichlorostyryl ketone | 105.5 g, 82% | ClC1=C(C=CC(=O)C(C)(C)C)C=CC(=C1)Cl | C13H14Cl2O
